US08247403B2
(3) 9-(1-methylethyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(1-methylethyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (330 mg, 1.13 mmol), ethyl acetate (6 ml) and 4N hydrogen chloride-ethyl acetate solution (3 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (106 mg, 97.2%) as a solid.

reactant | tert-butyl 9-(1-methylethyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.13 mmol, 330 mg | CC(C)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C17H25NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 3 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | 9-(1-methylethyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 106 mg, 97.2% | Cl.CC(C)C1=CC=CC=2CNCCOC21 | InChI=1S/C12H17NO.ClH/c1-9(2)11-5-3-4-10-8-13-6-7-14-12(10)11;/h3-5,9,13H,6-8H2,1-2H3;1H
